US04920130
A solution of 4-(4-(2-quinolinylmethyloxy)benzyl)-benzoyl chloride (0.05 mol) in tetrahydrofuran (300 ml) is added to a concentrated ammonium hydroxide (25 ml) solution and the reaction stirred overnight. The reaction mixture is evaporated and partitioned between ethyl acetate and water. The ethyl acetate fraction is dried and evaporated to give 4-(4-(2-quinolinylmethyloxy)styryl)benzamide.

reactant | 4-(4-(2-quinolinylmethyloxy)benzyl)-benzoyl chloride | 0.05 mol | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CC2=CC=C(C(=O)Cl)C=C2)C=C1 | C24H18ClNO2
reactant | ammonium hydroxide | 25 ml | [OH-].[NH4+]
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4-(4-(2-quinolinylmethyloxy)styryl)benzamide | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=CC2=CC=C(C(=O)N)C=C2)C=C1 | C25H20N2O2
